US06403055B1
E) N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-dimethylethyl ester
In a four-necked flask cooled to −80° C. equipped with a mechanical stirrer, a thermometer, and a jacketed dropping funnel N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-L-tryptophan 1,1-dimethylethyl ester (5 g; 13.35 mmol) was dissolved in CH3CN (25 mL). In the dropping funnel, cooled at −80° C., ethylene oxide (13 mL; 0.26 mol) was collected from the cylinder and then quickly dropped into the solution. Solid ytterbium triflate (0.83 g; 1.34 mmol) was added and after removal of the cooling bath the temperature was allowed to rise to r.t. The reaction was monitored by HPLC (Chromatographic method of Example 3, A)). After 15 h the solution was diluted with H2O (50 mL) and extracted with Et2O (150 mL). After evaporation of the solvent the crude was purified by flash chromatography (silica gel; n-hexane/ethyl acetate, 7:3 v/v) giving the desired product (4.32 g; 10.32 mmol).

reactant | N-[2-(1,1-dimethylethoxy)-2-oxoethyl]-L-tryptophan 1,1-dimethylethyl ester | 13.35 mmol, 5 g | CC(C)(C)OC([C@@H](NCC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C21H30N2O4
reactant | ethylene oxide | 0.26 mol, 13 mL | C1CO1 | C2H4O
reactant | ytterbium triflate | 1.34 mmol, 0.83 g | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | N-[2-(1,1-Dimethylethoxy)-2-oxoethyl]-N-(2-hydroxyethyl)-L-tryptophan 1,1-dimethylethyl ester | 10.32 mmol, 4.32 g, Yield 77% | CC(C)(C)OC([C@@H](N(CCO)CC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O | C23H34N2O5
